US05837702
A. N-(4-Fluorophenyl)-N-(2-hydroxy-2-methylpropyl)amine
A mixture of 4-fluoroaniline (1.12 g, 10 mmol) and isobutene oxide (0.70 g, 10 mmol) was heated in a sealed tube at 120° C. overnight. The resultant oil was purified by flash chromatography to give the title compound as an oil (1.20 g, 65%).

reactant | 4-fluoroaniline | 10 mmol, 1.12 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | isobutene oxide | 10 mmol, 0.70 g | C1C(C)(C)O1 | C4H8O
product | N-(4-Fluorophenyl)-N-(2-hydroxy-2-methylpropyl)amine | 1.20 g, 65% | FC1=CC=C(C=C1)NCC(C)(C)O | C10H14FNO
